************************************************************************
* auCdl Netlist:
* 
* Library Name:  Polymorphic
* Top Cell Name: dig_poly_NAND_NOR2_x1
* View Name:     schematic
* Netlisted on:  Oct  4 12:31:49 2019
************************************************************************

.INCLUDE  $PDK_DIR/MITLL090nm/subcircuit.cdl
*.EQUATION
*.SCALE METER
*.MEGA
.PARAM

*.GLOBAL vss!
+        vdd!
+        wafer!

*.PIN vss!
*+    vdd!
*+    wafer!

************************************************************************
* Library Name: Polymorphic
* Cell Name:    polymorphic_NAND_NOR2_x1
* View Name:    schematic
************************************************************************

.SUBCKT polymorphic_NAND_NOR2_x1 A B Vxx Vyy X inh_wafer
*.PININFO A:I B:I Vxx:I Vyy:I X:O inh_wafer:B
MM19 Vxx Vyy net5 inh_wafer psoi1 m=1 l=90n w=200n nf=1
MM24 Vyy Vxx net031 inh_wafer psoi1 m=1 l=90n w=200n nf=1
MM26 net031 A net08 inh_wafer psoi1 m=1 l=90n w=200n nf=1
MM27 net08 B X inh_wafer psoi1 m=1 l=90n w=200n nf=1
MM1 net5 B X inh_wafer psoi1 m=1 l=90n w=200n nf=1
MM0 net5 A X inh_wafer psoi1 m=1 l=90n w=200n nf=1
MM23 Vyy Vxx net33 inh_wafer nsoi1 m=1 l=90n w=200n nf=1
MM25 Vxx Vyy net011 inh_wafer nsoi1 m=1 l=90n w=200n nf=1
MM22 net011 A X inh_wafer nsoi1 m=1 l=90n w=200n nf=1
MM21 net011 B X inh_wafer nsoi1 m=1 l=90n w=200n nf=1
MM3 net33 B net32 inh_wafer nsoi1 m=1 l=90n w=200n nf=1
MM2 net32 A X inh_wafer nsoi1 m=1 l=90n w=200n nf=1
.ENDS

************************************************************************
* Library Name: MITLL90_STDLIB_8T
* Cell Name:    inv_4x
* View Name:    schematic
************************************************************************

.SUBCKT inv_4x A X inh_vdd inh_vss inh_wafer
*.PININFO A:I X:O inh_vdd:B inh_vss:B inh_wafer:B
MM2 inh_vdd A X inh_wafer psoi1 m=1 l=90n w=3.8u nf=4
MM0 inh_vss A X inh_wafer nsoi1 m=1 l=90n w=2.36u nf=4
.ENDS

************************************************************************
* Library Name: Polymorphic
* Cell Name:    dig_poly_NAND_NOR2_x1
* View Name:    schematic
************************************************************************

.SUBCKT dig_poly_NAND_NOR2_x1 A B X orient
*.PININFO A:I B:I orient:I X:O
XI28 A B net020 net06 X wafer! / polymorphic_NAND_NOR2_x1
XI29 orient net06 vdd! vss! wafer! / inv_4x
XI30 net06 net020 vdd! vss! wafer! / inv_4x
.ENDS

